US03939266
Benzhydryl 7-amino-3-cephem-4 -carboxylate
Benzhydryl 7-(2-thienylacetamido)-3-cephem-4-carboxylate (2.45 g. 5 mmol) was dissolved in calcium hydride dried benzene (130 ml) containing dry pyridine (0.59 g, 7.4 mmol). The solution was maintained at 0° and PCl5 (1.54 g. 7.4 mmol.) was added with stirring. The reaction mixture was stirred under nitrogen at 0° for three hours and then the solvent was removed in vacuo. Anhydrous methanol (260 ml) was added to the residue and the resultant mixture was allowed to stand 2 hours. The methanol was removed in vacuo and the residue was treated with 20% aqueous tetrahydrofuran. After 15 minutes the tetrahydrofuran was removed in vacuo and the aqueous residue was adjusted to pH 7.5 and extracted with ethyl acetate. The extracts were washed with water, dried over MgSO4 and evaporated to give the solid product which was triturated with chloroform-petroleum ether and dried under high vacuum.

reactant | Benzhydryl 7-(2-thienylacetamido)-3-cephem-4-carboxylate | 5 mmol, 2.45 g | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=CCS2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C26H22N2O4S2
reactant | pyridine | 7.4 mmol, 0.59 g | N1=CC=CC=C1 | C5H5N
reactant | PCl5 | 7.4 mmol, 1.54 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | calcium hydride | 130 ml | [H-].[Ca+2].[H-]
product | Benzhydryl 7-amino-3-cephem-4 -carboxylate | NC1[C@@H]2N(C(=CCS2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C20H18N2O3S
